US04254116
5,5-Dimethyl-8-(2-hexyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride is prepared according to the method of Example 29 by reacting equimolar quantities of 5,5-dimethyl-10-hydroxy-8-(2-hexyl)-5H-[1]benzopyrano[3,4-d]pyridine and γ-piperidinobutyric acid hydrochloride in the presence of dicyclohexyl carbodiimide.

reactant | 5,5-dimethyl-10-hydroxy-8-(2-hexyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)CCCC)O)C=2C1=CC=NC2)C | C20H25NO2
reactant | γ-piperidinobutyric acid hydrochloride | Cl.N1(CCCCC1)CCCC(=O)O
reactant | dicyclohexyl carbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 5,5-Dimethyl-8-(2-hexyl)-10-[4-(piperidino)butyryloxy]-5H-[1]benzopyrano[3,4-d]pyridine hydrochloride | Cl.CC1(OC2=C(C(=CC(=C2)C(C)CCCC)OC(CCCN2CCCCC2)=O)C=2C1=CC=NC2)C | InChI=1S/C29H40N2O3.ClH/c1-5-6-11-21(2)22-18-25(33-27(32)12-10-17-31-15-8-7-9-16-31)28-23-20-30-14-13-24(23)29(3,4)34-26(28)19-22;/h13-14,18-21H,5-12,15-17H2,1-4H3;1H
